US07435815B2
5-Isopropyl-pyridine-2-sulfonic acid m-tolylamide
prepared by reaction of m-tolylamine with 5-isopropyl-pyridine-2-sulfonyl chloride

reactant | m-tolylamine | C1(=CC(=CC=C1)N)C | C7H9N
reactant | 5-isopropyl-pyridine-2-sulfonyl chloride | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)Cl | C8H10ClNO2S
product | 5-Isopropyl-pyridine-2-sulfonic acid m-tolylamide | C1(=CC(=CC=C1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)C | C15H18N2O2S
